US04916128
Analogously to Example 1, 5-(2,3,4,5-tetrahydro-1H-1-benzazepin-7-yl)-6-methyl-3,6-dihydro-1,3,4-thiadiazin-2-one ("E"), m.p. 142°, is obtained from 7-(2-chloropropionyl)-2,3,4,5-tetrahydro-1H-1-benzazepin [obtainable by reaction of 1-acetyl-2,3,4,5-tetrahydro-1H-1-benzazepine with 2-chloropropionyl chloride/AlCl3 to give 1-acetyl-2,3,4,5-tetrahydro-7-(2-chloropropionyl)-1H-1-benzazepine (in addition, the 8-(2-chloropropionyl) isomer is obtained, which can be separated chromatographically) and subsequent removal of the acetyl group with HCl].

reactant | 1-acetyl-2,3,4,5-tetrahydro-1H-1-benzazepine | C(C)(=O)N1CCCCC2=C1C=CC=C2 | C12H15NO
reactant | 2-chloropropionyl chloride AlCl3 | ClC(C(=O)Cl)C.[Al+3].[Cl-].[Cl-].[Cl-]
product | 1-acetyl-2,3,4,5-tetrahydro-7-(2-chloropropionyl)-1H-1-benzazepine | C(C)(=O)N1CCCCC2=C1C=CC(=C2)C(C(C)Cl)=O | C15H18ClNO2
